US07582769B2
2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-4-methyl-thiazole-5-sulfonic acid methylamide
The title compound was prepared in a similar manner to 2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonic acid methylamide using 2-acetylamino-4-methyl-thiazole-5-sulfonyl chloride as the sulfonyl chloride.

reactant | 2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonic acid methylamide | CNS(=O)(=O)C1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCCCC1 | C18H30N4O3S2
reactant | 2-acetylamino-4-methyl-thiazole-5-sulfonyl chloride | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-4-methyl-thiazole-5-sulfonic acid methylamide | CNS(=O)(=O)C1=C(N=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCCCC1)C | C19H32N4O3S2
